US05552398
b) eq-Quinolizidin-2-ylmethylindole-3-carboxylate (E9b)
The title compound was prepared from eq-2-hydroxymethylquinolizidine (N. J. Leonard et al, J. Org. Chem., 1957, 22, 1445) and indole-3-carboxylic acid chloride using the method of Example 1. The yellow oil obtained was crystallised from ether to afford the title compound (E9b) as a beige solid mp 154°-157° C.

reactant | 2-hydroxymethylquinolizidine | OCC1CC2CCCCN2CC1 | C10H19NO
reactant | indole-3-carboxylic acid chloride | N1C=C(C2=CC=CC=C12)C(=O)Cl | C9H6ClNO
product | Quinolizidin-2-ylmethylindole-3-carboxylate | C1C(CCN2CCCCC12)COC(=O)C1=CNC2=CC=CC=C12 | C19H24N2O2
